US09062048B2
Step C: 1-Chloro-7-(trifluoromethyl)isoquinoline
A solution of 1-Methoxy-7-(trifluoromethyl)isoquinoline (50 mg, 0.22 mmol) from above step B in phosphorus oxychloride (1 mL) was heated at 150° C. for 18 h. Phosphorus oxychloride was removed under vacuum and the residue was purified by silica column chromatography to give the title compound.

reactant | 1-Methoxy-7-(trifluoromethyl)isoquinoline | 0.22 mmol, 50 mg | COC1=NC=CC2=CC=C(C=C12)C(F)(F)F | C11H8F3NO
reactant | phosphorus oxychloride | 1 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 1-Chloro-7-(trifluoromethyl)isoquinoline | ClC1=NC=CC2=CC=C(C=C12)C(F)(F)F | C10H5ClF3N
